US06291457B1
2-amino-2-(2-fluoropyridine-4-yl)-1-(3-trifluoromethylphenyl)ethanol
10% Palladium on carbon (3.0 g) was added to a solution of 1-(2-fluoropyridin4yl)-2-(3-trifluoromethylphenyl)-ethane-1,2-dione 1-oxime (8.0 g, 27 mmol) in ethanol (400 mL) at ambient temperature. The reaction vessel was vacuum purged, refilled with hydrogen and vigorously stirred for 10 hrs. After the reaction was complete, the solution was filtered through a pad of celite, and concentrated to give a solid. The residue was purified by recrystallization from methylene chloride and hexane to give 7.4 g of the title compound. m.p. 128-129° C.

reactant | 1-(2-fluoropyridin4yl)-2-(3-trifluoromethylphenyl)-ethane-1,2-dione 1-oxime | 27 mmol, 8.0 g | FC1=NC=CC(=C1)C(C(=O)C1=CC(=CC=C1)C(F)(F)F)=NO | C14H8F4N2O2
catalyst | Palladium on carbon | 3.0 g | [Pd] | Pd
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 2-amino-2-(2-fluoropyridine-4-yl)-1-(3-trifluoromethylphenyl)ethanol | 7.4 g | NC(C(O)C1=CC(=CC=C1)C(F)(F)F)C1=CC(=NC=C1)F | C14H12F4N2O
